* Z:\media\gallop\Data\_third_year\ece331\labs\lab5\LTSpice_Lab5\Draft2.asc
V1 Vin 0 SINE(0 1 1k)
V2 N001 0 5
V3 N004 0 -5
R1 N002 Vin R
R2 Vin N003 R
R3 N003 N004 R
R4 N001 N002 R
R5 Vin Vout R
XU1 Vout N002 N001 IRF9510_EX
XU2 Vout N003 N004 IRF510_EX
.lib /home/gallop/.wine/dosdevices/c:/Program Files (x86)/LTC/LTspiceIV/lib/sym/circuit_sim/ECE331_354.lib
.tran 0 50m 0 1u
.backanno
.end
